US04582849
14 g (0.051 mol) of dibromomaleic acid are stirred in 100 ml of glacial acetic acid under reflux for 1 hour. 8.2 g (0.05 mol) of 3-ethyl-3-phenyl-propylamine are added to the cooled solution of the dibromomaleic anhydride thus prepared, and the mixture is stirred under reflux for a further 3 hours. The mixture is cooled to 20° C. and the precipitate is filtered off with suction. After drying, 11.4 g (56% of theory) of dibromomaleic acid N-3-phenylpentylimide of melting point 71°-73° C. are obtained.

reactant | dibromomaleic acid | 0.051 mol, 14 g | Br/C(=C(/C(=O)O)\Br)/C(=O)O | C4H2Br2O4
reactant | 3-ethyl-3-phenyl-propylamine | 0.05 mol, 8.2 g | C(C)C(CCN)C1=CC=CC=C1 | C11H17N
reactant | dibromomaleic anhydride | Br/C/1=C(/C(=O)OC1=O)\Br | C4Br2O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | dibromomaleic acid N-3-phenylpentylimide | 11.4 g, 56% | C1(=CC=CC=C1)C(CCN=C(\C(=C(/C(=O)O)\Br)\Br)O)CC | C15H17Br2NO3
